US04061761
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrobromide
2.5 g of 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol were dissolved in 10 ml of methanol and adjusted to pH 3 by adding dropwise 48% hydrobromic acid. The solvent was distilled off under reduced pressure and the amorphous end product was crystallized under diethyl ether. Colorless crystals, melting point: 131° C (decomposition).

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol | 2.5 g | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CCCCC1)C1CCCCC1)O)S(N(C)C)(=O)=O | C23H34ClN3O3S2
reactant | hydrobromic acid | Br | BrH
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CCCCC1)C1CCCCC1)O)S(N(C)C)(=O)=O | InChI=1S/C23H34ClN3O3S2.BrH/c1-26(2)32(29,30)21-15-17(13-14-20(21)24)23(28)16-31-22(25-18-9-5-3-6-10-18)27(23)19-11-7-4-8-12-19;/h13-15,18-19,28H,3-12,16H2,1-2H3;1H
